US05030727
2,3,6-trimethyl-5H-thiazolo-(2,3-b)-quinazolin-5-one (compound 71)
9.6 g of 6-methylanthranilamide and 12.6 g of 2-bromo-4,5-dimethylthiazole were stirred for 12 hours at 150° C. After working up in the conventional manner there was obtained 11.9 g (81%) of the above compound; m.p. 278°-280° C.

reactant | 6-methylanthranilamide | 9.6 g | CC=1C=CC=C(C1C(=O)N)N | C8H10N2O
reactant | 2-bromo-4,5-dimethylthiazole | 12.6 g | BrC=1SC(=C(N1)C)C | C5H6BrNS
product | 2,3,6-trimethyl-5H-thiazolo-(2,3-b)-quinazolin-5-one | 11.9 g, 81% | CC1=C(N2C(=NC3=CC=CC(=C3C2=O)C)S1)C | C13H12N2OS
